US06884801B1
{2-Amino-5-bromo-3-methylphenyl}(1-pyrrolidinyl)methanone (prepared from pyrrolidine and 6-bromo-8-methyl-2H-3,1-benzoxazine-2,4-(1H)-dione using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give {5-bromo-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-3-methylphenyl}(1-pyrrolidinyl)methanone.

reactant | {2-Amino-5-bromo-3-methylphenyl}(1-pyrrolidinyl)methanone | NC1=C(C=C(C=C1C)Br)C(=O)N1CCCC1 | C12H15BrN2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 6-bromo-8-methyl-2H-3,1-benzoxazine-2,4-(1H)-dione | BrC=1C=C(C2=C(C(OC(N2)=O)=O)C1)C | C9H6BrNO3
product | {5-bromo-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-3-methylphenyl}(1-pyrrolidinyl)methanone | BrC=1C=C(C(=C(C1)C(=O)N1CCCC1)NCC=1NCCN1)C | C16H21BrN4O
